US07524840B2
A mixture of 1.0 g (0.0031 mole) of 5-(2-chlorophenyl)-1,3-dihydro-7,8-difluoro-2H-1,4-benzodiazepin-2-thione (IImm), 0.372 g of sodium hydride and 20 mL of 2-methoxyethanol was heated in a microwave vessel at 120° C. for 30 minutes, cooled and then diluted with ethyl acetate. The mixture was washed successively with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was triturated with ethyl acetate to give 0.74 g of 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-thione (IIf) as a white solid, which was then used to prepare 5-(2-chlorophenyl)-1,2-dihydro-7-fluoro-8-methoxyethoxy-3-methyl-pyrazolo[3,4-b][1,4]benzodiazepine (IVf) in accordance with Example 58 without further purification.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-7,8-difluoro-2H-1,4-benzodiazepin-2-thione | 0.0031 mole, 1.0 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)F)F)=S | C15H9ClF2N2S
reactant | sodium hydride | 0.372 g | [H-].[Na+]
reactant | 2-methoxyethanol | 20 mL | COCCO | C3H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-thione | 0.74 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OCCOC)F)=S | C18H16ClFN2O2S
